US07557110B2
Synthesis of 5,7-dichloro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbaldehyde.
To N,N-dimethyl formamide (9 mL) under nitrogen at room temperature was added POCl3 (3mL) and the resulting slurry was stirred for 5 min. 5,7-Dichloro-6-methylpyrazolo[1,5-a]pyrimidine (5 g) was slowly added and resulting thick mixture was heated at 70° C. for 3 h. The mixture was poured onto ice and basified with sodium hydroxide (5 g). The residue was filtered and the dried precipitate chromatographed on silica gel (eluting with CH2Cl2→20% ethyl acetate/CH2Cl2) to give the title compound (3.74 g); mp 137-139° C.

reactant | POCl3 | 3mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 5,7-Dichloro-6-methylpyrazolo[1,5-a]pyrimidine | 5 g | ClC1=NC=2N(C(=C1C)Cl)N=CC2 | C7H5Cl2N3
reactant | sodium hydroxide | 5 g | [OH-].[Na+]
reactant | N,N-dimethyl formamide | 9 mL | CN(C=O)C | C3H7NO
product | 5,7-dichloro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 3.74 g | ClC1=NC=2N(C(=C1C)Cl)N=CC2C=O | C8H5Cl2N3O
